US05552399
P2O5 (516.5 g) was added portionwise to H3PO4 (247.5 ml) and stirred under a N2 flow at room temperature. The mixture was stirred for 2 hours at 120° C., then cooled to 50° C. p-Xylene (1810 ml) was added, and stirring was continued for 15 minutes. POCl3 (83.3 g) was added, and stirring was continued for 10 minutes. N-[2-(phenylmethyl)phenyl]formamide (prepared as described in Helv. Chim. Acta 47(5) 1163-72 (1964)) (37.2 g) was added portionwise. The mixture was stirred for 30 minutes at 60°-70° C. Another portion of N-[2-(phenylmethyl)phenyl]formamide (74.3 g) was added portionwise, and the reaction mixture was stirred overnight at 100° C. The reaction mixture was cooled and the p-xylene layer was removed. Water (990 ml) was added slowly. The mixture was cooled with ice-water. A solution of KOH (1073 g) in water (2200 ml) was added over 2 hours. CH2Cl2 (500 ml) was added dropwise and the mixture was stirred vigorously during 15 minutes. The organic layer was separated. The aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried with MgSO4, filtered off and the solvent evaporated. The residue was purified by distillation yielding a mixed fraction. The mixed fraction was repurified twice by distillation, yielding 1.4 g of 11H-dibenz[b,e]azepine (interm. 9).

reactant | P2O5 | 516.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H3PO4 | 247.5 ml | OP(=O)(O)O | H3O4P
reactant | POCl3 | 83.3 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-[2-(phenylmethyl)phenyl]formamide | 37.2 g | C1(=CC=CC=C1)CC1=C(C=CC=C1)NC=O | C14H13NO
reactant | N-[2-(phenylmethyl)phenyl]formamide | 74.3 g | C1(=CC=CC=C1)CC1=C(C=CC=C1)NC=O | C14H13NO
solvent | p-Xylene | 1810 ml | CC=1C=CC(=CC1)C | C8H10
product | 11H-dibenz[b,e]azepine | 1.4 g | C1=CC=CC=2N=CC3=C(CC21)C=CC=C3 | C14H11N
